US08304419B2
DBU (15.0 mL, 100 mmol) was added dropwise to a solution of ethyl 3-chloro-3-methyl-1-[(4-methylphenyl)sulfonyl]prolinate (15 g, 43 mmol) in THF (100 mL). The mixture was stirred overnight at RT. Diethyl ether (100 mL) and ice cold 5% HCl (100 mL) were added, the layers separated. The organic layer was washed again with washed with ice cold 5% HCl (100 mL) and water (50 mL) followed by saturated sodium bicarbonate (100 mL) and saturated NaCl (50 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated to afford ethyl 3-methyl-1H-pyrrole-2-carboxylate (5.6 g, 84%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.42 (br. s., 1H) 6.84 (t, 1H) 6.00 (t, 1H) 4.21 (q, 2H) 2.25 (s, 3H) 1.28 (t, 3 H). MS: m/z 153.9 (M+1).

reactant | DBU | 100 mmol, 15.0 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl 3-chloro-3-methyl-1-[(4-methylphenyl)sulfonyl]prolinate | 43 mmol, 15 g | ClC1([C@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC)C | C15H20ClNO4S
reactant | Diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 3-methyl-1H-pyrrole-2-carboxylate | 5.6 g, 84% | CC1=C(NC=C1)C(=O)OCC | C8H11NO2
